US07888364B2
240 mg of 4-chloro-3-(pyridin-2-yl)aniline was coupled to 207 mg of 4-cyanobenzoic acid via Procedure G. To 445 mg of N-(4-chloro-3-(pyridin-2-yl)phenyl)-4-cyanobenzamide and 2.5 mL of DIPEA in 10 mL of EtOH was added 793 mg Hydroxylamine Hydrochloride and heated to 60° C. until reaction was complete. The solvent was subsequently evaporated, extracted twice with water in Ethyl Acetate, dried with Magnesium Sulfate, filtered and concentrated. The crude product was purified by reverse phase HPLC to give pure N-(4-chloro-3-(pyridin-2-yl)phenyl)-4-(N-hydroxycarbamimidoyl)benzamide. MS (Q1) 367.4 (M)+.

reactant | 4-chloro-3-(pyridin-2-yl)aniline | 240 mg | ClC1=C(C=C(N)C=C1)C1=NC=CC=C1 | C11H9ClN2
reactant | 4-cyanobenzoic acid | 207 mg | C(#N)C1=CC=C(C(=O)O)C=C1 | C8H5NO2
reactant | N-(4-chloro-3-(pyridin-2-yl)phenyl)-4-cyanobenzamide | 445 mg | ClC1=C(C=C(C=C1)NC(C1=CC=C(C=C1)C#N)=O)C1=NC=CC=C1 | C19H12ClN3O
reactant | DIPEA | 2.5 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | Hydroxylamine Hydrochloride | 793 mg | Cl.NO
solvent | EtOH | 10 mL | CCO | C2H6O
product | N-(4-chloro-3-(pyridin-2-yl)phenyl)-4-(N-hydroxycarbamimidoyl)benzamide | ClC1=C(C=C(C=C1)NC(C1=CC=C(C=C1)C(NO)=N)=O)C1=NC=CC=C1 | C19H15ClN4O2
